US06022894
EXAMPLE 39: Preparation of N-(2-Hydroxy-3-octanoxypropyl)-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine.
Using the method of Example 5, supra, 1-octyl glycidyl ether (187 mg, 1.0 mmol) and 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine (197 mg, 1.1 mmol) were used to prepare 105 mg of the title compound as a clear, colorless oil: GC/EI-MS, m/z (rel. int.) 366 (M+1, 0.08), 350 (0.08), 244 (100), 222 (5.8), 163 (12), 121 (18): 1H-NMR (CDCl3) δ 7.08 (2H, d, J=8.6), 6.82 (2H, d, J=8.6), 3.79 (1H, m), 3.77 (3H, s), 3.45 (4H, m), 2.92 (1H, broad s), 2.79 (1H, dd, J=11.6 and 4.1), 2.65 (2H, m), 2.55 (2H, m), 1.27 (8H, m), 1.06 (3H, s), 1.04 (3H, s), 0.88 (3H, t, J=6.7); 13C-NMR (CDCl3) δ 158.0, 131.2, 129.9, 113.2, 73.4, 71.6, 68.9, 55.0, 53.3, 46.2, 44.6, 31.7, 29.5, 29.3, 29.1, 26.5, 26.4, 26.0, 22.5, 14.0; FT-IR (film) cm-1 3409 (broad), 1611, 1512, 1245, 1120.

reactant | 1-octyl glycidyl ether | 1.0 mmol, 187 mg | C(C1CO1)OCCCCCCCC | C11H22O2
reactant | 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 1.1 mmol, 197 mg | CC(CC1=CC=C(C=C1)OC)(C)N | C11H17NO
product | N-(2-Hydroxy-3-octanoxypropyl)-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 105 mg | OC(CNC(CC1=CC=C(C=C1)OC)(C)C)COCCCCCCCC | C22H39NO3
